US07115740B2
A solution of (±)-1-[trans-3-(tert-butyl-dimethyl-silanyloxy)-cyclopentyl]-3-(4-ethyl-phenyl)-7-(4-fluoro-phenylamino)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one (47 mg, 0.08 mmol) in pyridine (1 mL) (Fisher) was treated at room temperature with hydrogen fluoride-pyridine (0.6 mL) (Aldrich) for 20 minutes. The reaction mixture was quenched with 1 N aqueous hydrochloric acid at 0° C., then extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (50% ethyl acetate in hexanes) to give (±)-3-(4-ethyl-phenyl)-7-(4-fluoro-phenylamino)-1-(trans-3-hydroxy-cyclopentyl)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one as a white solid. (Yield 32 mg, 87%).

reactant | (±)-1-[trans-3-(tert-butyl-dimethyl-silanyloxy)-cyclopentyl]-3-(4-ethyl-phenyl)-7-(4-fluoro-phenylamino)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 0.08 mmol, 47 mg | C(C)(C)(C)[Si](O[C@@H]1C[C@H](CC1)N1C(N(CC=2C1=NC(=NC2)NC2=CC=C(C=C2)F)C2=CC=C(C=C2)CC)=O)(C)C | C31H40FN5O2Si
reactant | hydrogen fluoride-pyridine | 0.6 mL | N1=CC=CC=C1.F
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | (±)-3-(4-ethyl-phenyl)-7-(4-fluoro-phenylamino)-1-(trans-3-hydroxy-cyclopentyl)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | C(C)C1=CC=C(C=C1)N1C(N(C2=NC(=NC=C2C1)NC1=CC=C(C=C1)F)[C@@H]1C[C@H](CC1)O)=O | C25H26FN5O2
